US07119122B2
(2-Ethyl-3-methoxybenzyl)dimethylamine (1.30 g, 6.73 mmol) was suspended in 30% hydrogen bromide/acetic acid (10 mL) and heated to reflux with stirring for 21 h. The cooled reaction mixture was triturated and decanted with successive portions of diethyl ether (3×), then triturated with diethyl ether overnight. The solid was collected by filtration, washed with ether and dried to give 3-dimethylaminomethyl-2-ethylphenol hydrobromide (1.37 g, 78%) as a tan solid.

reactant | (2-Ethyl-3-methoxybenzyl)dimethylamine | 6.73 mmol, 1.30 g | C(C)C1=C(CN(C)C)C=CC=C1OC | C12H19NO
reactant | hydrogen bromide acetic acid | 10 mL | Br.C(C)(=O)O
product | 3-dimethylaminomethyl-2-ethylphenol hydrobromide | 1.37 g, 78% | Br.CN(C)CC=1C(=C(C=CC1)O)CC | InChI=1S/C11H17NO.BrH/c1-4-10-9(8-12(2)3)6-5-7-11(10)13;/h5-7,13H,4,8H2,1-3H3;1H
